US08071584B2
5-Bromo-3-(1,1-dioxido-2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
5-bromo-3-(1,1-dioxido-2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylic acid (0.9 g, 2.007 mmol) was put in a flask and dissolved in N,N-Dimethylformamide (DMF) (2 mL). HOBt (1-hydroxybenzotriazole) (0.271 g, 2.007 mmol) and EDC (1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide) (1.078 g, 5.62 mmol) were added. The mixture was stirred and 0.5N NH3 in dioxane was added (12.04 mL, 6.02 mmol). The reaction mixture was heated under microwave at 100° C. for 20 minutes. The reaction was quenched with a saturated aqueous solution of sodium bicarbonate (50 mL) and extracted with ethyl acetate (3×25 mL). Organic layers were combined and washed with a saturated aqueous solution of sodium bicarbonate, dried (MgSO4) and concentrated in vacuo. The mixture was dissolved in the minimum amount of DCM and precipitated in hexane, giving 0.575 g of the title compound as a pale brown powder.

reactant | 5-bromo-3-(1,1-dioxido-2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylic acid | 2.007 mmol, 0.9 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CC(S(CC1)(=O)=O)C1=CC=CC=C1 | C20H18BrNO4S
reactant | HOBt | 2.007 mmol, 0.271 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC | 5.62 mmol, 1.078 g
reactant | NH3 | 0.5N | N | H3N
solvent | N,N-Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-3-(1,1-dioxido-2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.575 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(CC1)(=O)=O)C1=CC=CC=C1 | C20H19BrN2O3S
